US06949571B2
5-(2-Pyridinecarbonyl)-1-phenyl-3-phenyl-1,2-dihydropyridin-2-one
A mixed liquid of 10 mg of 5-(2-pyridinecarbonyl)-1-phenyl-3-bromo-1,2-dihydropyridin-2-one, 10 mg of phenylboronic acid, 40 mg of cesium carbonate, 6 mg of tetrakistriphenylphosphine palladium and 1 ml of dimethylformamide was stirred at 130° C. for 2 hours in nitrogen atmosphere. After cooling to room temperature, ethyl acetate was added thereto. The extract was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (ethyl acetate/hexane), to give 6 mg of the title compound as a pale yellow powder.

reactant | 5-(2-pyridinecarbonyl)-1-phenyl-3-bromo-1,2-dihydropyridin-2-one | 10 mg | N1=C(C=CC=C1)C(=O)C=1C=C(C(N(C1)C1=CC=CC=C1)=O)Br | C17H11BrN2O2
reactant | phenylboronic acid | 10 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 40 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Pyridinecarbonyl)-1-phenyl-3-phenyl-1,2-dihydropyridin-2-one | 6 mg | N1=C(C=CC=C1)C(=O)C=1C=C(C(N(C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H16N2O2
